* DPT-PFC V=425 I=157 Rgoff=4.7 Lloop=1e-8 snub=10/3.3e-10 clamp=0
.include ../models/sic-behavioral.lib
VBUS bus 0 DC 425
CDC bus 0 100u ic=425
LLP bus kd 1e-8
DFW sw kd JBS1200_40
RSN sw nsn 10
CSN nsn 0 3.3e-10
* no clamp (negative half-cycle as drawn)
LLD kd sw 0.000042 ic=157
VSNS sw d1 0
LD d1 d 2n
M1 d g ks SIC750_10R
LKS ks s 1.5n
LSP s 0 2n
VDRV drv ks PWL(0 18 4e-7 18 4.05e-7 -3 0.0000019 -3 0.000001905 18 0.0000027 18 0.000002705 -3)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g goff DIDEAL
RGF goff drv 4.7
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.2n 0.0000032999999999999997 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-pfc-50kwa-final-UNCLAMPED.out v(d,ks) v(g,ks) i(VSNS) v(sw)
quit
.endc
.end